US09023817B2
Dopamine (DA, Fluka Corporation); 5-hydroxyl tryptamine (5-HT, Sigma Corporation); 3,4-dihydroxyl phenylacetic acid (DOPAC, Sigma Corporation); 3,4-dihydroxyl benzylamine (DHBA, Sigma Corporation); di-n-butylamine (Shanghai Chemical Works), D-8 ion pair reagent (Tianjin Chemical Co., Ltd.), methanol (Guaranteed Reagent, Beijing Chemical Works), other reagents are domestically produced and analytically pure.

reactant | Dopamine | NCCC1=CC(O)=C(O)C=C1 | C8H11NO2
reactant | 5-hydroxyl tryptamine | OC1=CC=C2NC=C(CCN)C2=C1 | C10H12N2O
reactant | 3,4-dihydroxyl phenylacetic acid | OC=1C=C(C=CC1O)CC(=O)O | C8H8O4
reactant | 3,4-dihydroxyl benzylamine | OC=1C=C(CN)C=CC1O | C7H9NO2
solvent | methanol | CO | CH4O
product | di-n-butylamine | C(CCC)NCCCC | C8H19N
